US05886008
To a stirred mixture of lithium aluminum hydride (1.71 g, 45.1 mmol, 4.5 eq) in anhydrous tetrahydrofuran (40 mL) at 0° C. was added dropwise a solution of the 3-(N-benzyloxycarbonylpyrrolidin-2-ylcarbonyl)-1H-indole (10.0 mmol) in anhydrous tetrahydrofuran (20 mL). The resulting reaction mixture was heated at reflux under nitrogen for 6 hours. The reaction mixture was cooled, and sodium sulfate decahydrate (50 g) was added very carefully portionwise, followed by water (1mL), and ethyl acetate (100 mL). The resulting mixture was stirred at room temperature under nitrogen for 24 hours. The reaction mixture was then filtered through Celite®, and the filtrate was evaporated under reduced pressure. The residue was then column chromatographed using silica gel (approximately 100 g) eluting with an appropriate solvent system to afford the desired 3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole.

reactant | lithium aluminum hydride | 45.1 mmol, 1.71 g, 4.5 eq | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(N-benzyloxycarbonylpyrrolidin-2-ylcarbonyl)-1H-indole | 10.0 mmol | C(C1=CC=CC=C1)OC(=O)N1C(CCC1)C(=O)C1=CNC2=CC=CC=C12 | C21H20N2O3
reactant | sodium sulfate decahydrate | 50 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 1mL | O | H2O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole | CN1C(CCC1)CC1=CNC2=CC=CC=C12 | C14H18N2
